US08222247B2
To a solution of (6-chloro-pyridin-3-yl)-phenyl-methanol (2 g, 9.10 mmol) in dichloromethane (25 ml) were added acetic anhydride (3.5 ml, 36.4 mmol) and DMAP (1.10 g, 9.10 mmol). The reaction mixture was stirred for 16 hours, and then was washed with water, dried and concentrated to give acetic acid (6-chloro-pyridin-3-yl)-phenyl-methyl ester as a viscous liquid. LC/MS (m/z) 262.12 [(M+H)+]; HPLC Rt: 3.011 min.

reactant | (6-chloro-pyridin-3-yl)-phenyl-methanol | 9.10 mmol, 2 g | ClC1=CC=C(C=N1)C(O)C1=CC=CC=C1 | C12H10ClNO
reactant | acetic anhydride | 36.4 mmol, 3.5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
catalyst | DMAP | 9.10 mmol, 1.10 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | acetic acid (6-chloro-pyridin-3-yl)-phenyl-methyl ester | ClC1=CC=C(C=N1)C(C1=CC=CC=C1)OC(C)=O | C14H12ClNO2
